US08754107B2
To a solution of 4-phenyl-1-pyrrolidin-3-yl-piperidine dihydrochloride (preparation #7) (0.050 g, 0.165 mmol) and triethylamine (0.092 mL, 0.66 mmol) in dichloromethane (1 mL) was added 1-isocyanatomethyl-4-methyl-benzene (0.024 g, 0.165 mmol) and the reaction mixture was stirred at ambient temperature for about 16 h. The reaction mixture was concentrated in vacuo and the residue was purified by flash chromatography on silica gel using 5% MeOH/EtOAc as the mobile phase to give 3-(4-phenyl-piperidin-1-yl)-pyrrolidine-1-carboxylic acid 4-methyl-benzylamide (0.042 g, 68%). RP-HPLC (Table 1, Method b) Rt 1.72 min; m/z: (M+H)+ 378.

reactant | 4-phenyl-1-pyrrolidin-3-yl-piperidine dihydrochloride | 0.165 mmol, 0.050 g | Cl.Cl.C1(=CC=CC=C1)C1CCN(CC1)C1CNCC1
reactant | triethylamine | 0.66 mmol, 0.092 mL | C(C)N(CC)CC | C6H15N
reactant | 1-isocyanatomethyl-4-methyl-benzene | 0.165 mmol, 0.024 g | N(=C=O)CC1=CC=C(C=C1)C | C9H9NO
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 3-(4-phenyl-piperidin-1-yl)-pyrrolidine-1-carboxylic acid 4-methyl-benzylamide | 0.042 g, 68% | CC1=CC=C(CNC(=O)N2CC(CC2)N2CCC(CC2)C2=CC=CC=C2)C=C1 | C24H31N3O
